US06645968B2
2-(benzoylamino)-3,3-dimethylbutanoic Acid
Racemic tert-butylglycine and benzoyl chloride were processed as described in Example 26A to provide the desired product.

reactant | Racemic tert-butylglycine | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-(benzoylamino)-3,3-dimethylbutanoic Acid | C(C1=CC=CC=C1)(=O)NC(C(=O)O)C(C)(C)C | C13H17NO3
